US08877742B2
3-iodo-4-nitro-1H-pyrrolo[2,3-b]pyridine
To a stirred solution of 4-nitro-1H-pyrrolo[2,3-b]pyridine (4.5 g, 27.6 mmol) in DCM (180 mL) was added NIS (6.83 g, 30.3 mmol) over 30 mins at 0° C. The resulting mixture was stirred at 0° C. for another 1 hour. The reaction mixture was concentrated. The residue was suspended in DCM (ca. 25 mL), the solid was filtered and dried in a vacuum oven to give the title compound (8.51 g). LCMS (A): m/z (M+H)+ 290, C7H4IN3O2 requires 289 (acidic).

reactant | 4-nitro-1H-pyrrolo[2,3-b]pyridine | 27.6 mmol, 4.5 g | [N+](=O)([O-])C1=C2C(=NC=C1)NC=C2 | C7H5N3O2
reactant | NIS | 30.3 mmol, 6.83 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 180 mL | C(Cl)Cl | CH2Cl2
product | 3-iodo-4-nitro-1H-pyrrolo[2,3-b]pyridine | 8.51 g | IC1=CNC2=NC=CC(=C21)[N+](=O)[O-] | C7H4IN3O2
